US07214798B2
6.1. 2-[1-(6-Fluoro-1-isoquinolyl)-4-piperidyl]ethanol
The process is performed as described in Example 4 (step 4.1). Starting with 1.52 g (8.39 mmol) of 1-chloro-6-fluoroisoquinoline and 1.20 g (9.23 mmol) of 2-(4-piperidyl)ethanol, and after chromatography on silica gel, eluting with a 95/5/0.5 mixture of dichloromethane, methanol and 28% aqueous ammonia, 0.90 g of pure product is obtained in the form of a yellow paste.

reactant | 1-chloro-6-fluoroisoquinoline | 8.39 mmol, 1.52 g | ClC1=NC=CC2=CC(=CC=C12)F | C9H5ClFN
reactant | 2-(4-piperidyl)ethanol | 9.23 mmol, 1.20 g | N1CCC(CC1)CCO | C7H15NO
product | 2-[1-(6-Fluoro-1-isoquinolyl)-4-piperidyl]ethanol | 0.90 g | FC=1C=C2C=CN=C(C2=CC1)N1CCC(CC1)CCO | C16H19FN2O
